US06821972B2
N-(5-Cyano-2-pyridinyl)-2,2,2-trifluoroacetamide
To a solution of 6-aminonicotinonitrile (2.0 g, 15 mmol) and pyridine (4.7 mL, 58 mmol) in tetrahydrofuran (80 mL) at 0° C. was added trifluoroacetic anhydride (4.5 mL, 32 mmol) slowly, ensuring internal temperature did not exceed 5° C. Once addition was complete the reaction was warmed to room temperature and stirred overnight. The solvent was removed in vacuo, the residue was then dissolved in ethyl acetate (100 mL) and washed with water (50 mL) then dried (MgSO4). The solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel (ethyl acetate/hexane 1:1 as eluant) to give the title compound as a white solid (2.7 g).

reactant | 6-aminonicotinonitrile | 15 mmol, 2.0 g | NC1=NC=C(C#N)C=C1 | C6H5N3
reactant | pyridine | 58 mmol, 4.7 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 32 mmol, 4.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | N-(5-Cyano-2-pyridinyl)-2,2,2-trifluoroacetamide | 2.7 g | C(#N)C=1C=CC(=NC1)NC(C(F)(F)F)=O | C8H4F3N3O
